US03950343
A mixture of 1,3,4,5-tetrahydropyrrolo[4,3,2-de]isoquinoline hydrochoride (9.8 g), described in Example 5, in 30 ml of pyridine and 10 ml of acetic anhydride is heated at 50°C for 2 hr. The excess anhydride is destroyed by the addition of water. The mixture is poured into cold 5% HCl. The resulting precipitate is collected and recrstallized from ethanol to give 4-acetyl-1,3,4,5 -tetrahydropyrrolo[4,3,2-de]isoquinoline, mp 205°-206°C.

reactant | 1,3,4,5-tetrahydropyrrolo[4,3,2-de]isoquinoline hydrochoride | 9.8 g | Cl.N1C=C2CNCC=3C=CC=C1C23
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 4-acetyl-1,3,4,5 -tetrahydropyrrolo[4,3,2-de]isoquinoline | C(C)(=O)N1CC=2C=CC=C3C2C(C1)=CN3 | C12H12N2O
